US08076482B2
Preparation of intermediate E/Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid methyl ester
To the mixture of 6-chloro-1,3-dihydro-indol-2-one (43 g, 0.26 mol) and 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester (66 g, 0.26 mol) in methanol (700 mL) was added pyrrolidine (22 g, 0.31 mol) dropwise. The mixture was then heated at 70° C. for 1 h. After cooled to room temperature, the mixture was filtered and resulting precipitate was collected, dried to give the title compound as a yellow solid (76 g).

reactant | 6-chloro-1,3-dihydro-indol-2-one | 0.26 mol, 43 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 2-(4-chloro-2-formyl-phenoxy)-2-methyl-propionic acid methyl ester | 0.26 mol, 66 g | COC(C(C)(C)OC1=C(C=C(C=C1)Cl)C=O)=O | C12H13ClO4
reactant | pyrrolidine | 0.31 mol, 22 g | N1CCCC1 | C4H9N
solvent | methanol | 700 mL | CO | CH4O
product | Z-2-[4-chloro-2-(6-chloro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-phenoxy]-2-methyl-propionic acid methyl ester | 76 g | COC(C(C)(C)OC1=C(C=C(C=C1)Cl)\C=C\1/C(NC2=CC(=CC=C12)Cl)=O)=O | C20H17Cl2NO4
